US04483857
4-(6-Methoxypyridazin-3-yl)piperazine (7.2 g) (J. Med. Chem. 1963, 5, 541) in 48% hydrobromic acid (140 ml) was heated at 110°-120° for 11/2 hours, left at room temperature overnight, then heated at 120° for a further 1 hour. The solvent was evaporated in vacuo and the residue treated twice with isopropanol and evaporated to dryness. The resulting solid was triturated with diethyl ether, filtered and washed with ether to give 4-(6-hydroxypyridazin-3-yl)piperazine, hydrobromide (11.2 g). A sample re-crystallized from ethanol had m.p. 289°-291°.

reactant | 4-(6-Methoxypyridazin-3-yl)piperazine | 7.2 g | COC1=CC=C(N=N1)N1CCNCC1 | C9H14N4O
reactant | hydrobromic acid | 140 ml | Br | BrH
product | 4-(6-hydroxypyridazin-3-yl)piperazine, hydrobromide | 11.2 g | Br.OC1=CC=C(N=N1)N1CCNCC1 | InChI=1S/C8H12N4O.BrH/c13-8-2-1-7(10-11-8)12-5-3-9-4-6-12;/h1-2,9H,3-6H2,(H,11,13);1H
